Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone / atorvastatin
 
Attending: ___.
 
Chief Complaint:
urosepsis and uncontrolled hypertension
 
Major Surgical or Invasive Procedure:
Right IJ central line ___
 
History of Present Illness:
Ms. ___ is a ___ with a PMHx of DVT, CAD/MI, T1DM (c/b  
gastroparesis, CKD III (cr: 1.6-2.3) R BKA, neuropathy, 
autonomic dysfunction), hypertension w/recurrent HTN urgency, 
w/recent ICU admission ___ for E coli urosepsis, who 
presents for nausea and vomitting and Hypertensive urgency.  

She was brought in by ambulance for not being able to keep 
anything down since last night and had vomiting x 4 with no 
blood. He also had elevated blood sugars to the 400s.  Patient 
has a nurse at home and has reportedly been compliant with 
insulin. Of note, she has had multiple episodes of DKA in the 
past. No urinary symptoms, fevers, chest pain, SOB, abdominal 
pain but has AMS which was concerning to her nurse. 

On arrival to the ED by ambulance, the patient was tachycardic 
and appears uncomfortable. She has coarse breath sounds 
bilaterally and a normal abdominal exam.

EKG shows stable RBBB. FBG is 291. 20G placed in R AC via US. 
Labs show normal lactate, no acidosis. WBC of 18. Pt has a 
negative CXR. Patient's UA showed elevated WBCs 15.2 and a 
normal lactate. Mild changes in mental status with increasing 
sleepiness, NOT obtuned, would be interactive and arousable when 
engaged and then became sleepy. Non-focal neuro exam. Got a head 
CT which was negative and CT of the abdomen which showed no 
acute process. 

A triple lumen catheter was placed in right IJ. She was found to 
be persistently hypertensive 190-210's  systolic and tachycardic 
to 100-120. 

The patient was started on vanco and zosyn for UTI. She was 
given metopprolol 5mg x2 for control of elevated blood pressure 
without significant response. She was then given 10mg of 
labetalol which improved her blood pressure from 190's to 160's 
systolic. an hour later, her blood pressure increased again to 
190's and since she was not tolerant to PO at that time she was 
started on labetalol GGT and sent to the MICU for further 
management of her urosepsis + AMS + uncontrolled HTN. 
 
Past Medical History:
- H/o DVT 
- MI ___, no stents 
- DM type I. Followed by ___. 
- Peripheral neuropathy 
- gastroparesis 
- HTN 
- Hyperlipidemia 
- Hypothyroidism 
- PVD/PAD 
- Autonomic dysfunction, orthostatic hypotension 
- Barretts Esophagus on EGD ___ 
- Depression 
- S/p right BKA 
- Hiatal hernia 
- sciatica 
- S/p laminectomy 
- S/p hysterectomy
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 

___.
Father - coronary artery disease with MI in her ___, died at 
age ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
GENERAL: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
NECK: supple, JVP not elevated, no LAD
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops ABD: soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly GU: 
Foley in place
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema SKIN: No lesions.
NEURO: A&O x3. CN II-XII intact. Sensation, strength intact. 
 
Pertinent Results:
LABS ON ADMISSION:
=================
___ 07:25PM BLOOD WBC-18.4*# RBC-3.39* Hgb-10.0* Hct-30.9* 
MCV-91 MCH-29.5 MCHC-32.4 RDW-16.4* RDWSD-52.5* Plt ___
___ 07:25PM BLOOD Neuts-87.4* Lymphs-8.1* Monos-3.6* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-16.05* AbsLymp-1.49 
AbsMono-0.66 AbsEos-0.00* AbsBaso-0.03
___ 08:44PM BLOOD ___ PTT-30.8 ___
___ 07:25PM BLOOD Glucose-305* UreaN-16 Creat-1.6* Na-130* 
K-6.1* Cl-90* HCO3-22 AnGap-24*
___ 07:25PM BLOOD ALT-19 AST-84* CK(CPK)-63 AlkPhos-117* 
TotBili-0.3
___ 07:25PM BLOOD CK-MB-4
___ 07:25PM BLOOD Lipase-17
___ 07:25PM BLOOD cTropnT-0.04*
___ 09:25AM BLOOD cTropnT-0.03*
___ 07:25PM BLOOD Albumin-3.3* Calcium-10.8* Phos-4.5 
Mg-1.9
___ 07:39PM BLOOD ___ pO2-63* pCO2-39 pH-7.43 
calTCO2-27 Base XS-1
___ 07:39PM BLOOD K-3.9
___ 10:24PM BLOOD Lactate-0.9
___ 01:29AM BLOOD Lactate-1.1
___ 10:45PM URINE Color-Straw Appear-Hazy Sp ___
___ 10:45PM URINE Blood-TR Nitrite-NEG Protein-300 
Glucose-1000 Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 10:45PM URINE RBC-3* WBC-111* Bacteri-FEW Yeast-FEW 
Epi-0 TransE-<1

MICRO LABS:
==========
___ CULTURE-FINALEMERGENCY WARD 
NEGATIVE
___ CULTUREBlood Culture, 
Routine-PENDINGEMERGENCY WARD NEGATIVE
___ CULTUREBlood Culture, 
Routine-PENDINGEMERGENCY WARD NEGATIVE

IMAGES:
=======
CXR (___): No acute intrathoracic process.

CT head non-contrast (___): 1. Punctate hyperdensity within the 
left cerebellum, which was initially
question on the preliminary report is a tiny calcification of 
doubtful clinical significance. 2. No evidence of infarction. 
NOTIFICATION:  Review of the patient's records identified a note 
from Dr.
___ correctly concluded that the hyperdensity in the left 
cerebellum was clinically insignificant.  Therefore, no further 
notification was necessary.

CT abdomen/pelvis w/o contrast (___): 1. No acute process 
within the abdomen or pelvis.
2. Improved ill-defined opacities at the lung bases bilaterally, 
likely due to aspiration. 3. Small hiatal hernia.

LABS ON DISCHARGE:
=================

 
Brief Hospital Course:
This is a ___ with history of DVT, CAD/MI, T1DM (c/b 
gastroparesis, R BKA, neuropathy, autonomic dysfunction), and 
HTN who initially presented for nausea, vomiting, concern for 
sepsis and hypertensive urgency ultimately not found to have 
infectious source with course complicated by hyponatremia.  

#Sepsis:
#Leukocytosis: supported by elevated WBC, tachycardia, and 
grossly positive UA. The patient has history of severe urosepsis 
requiring ICU admissions. Her CXR is negative however, her CT 
showed ill-defined opacities at the lung bases bilaterally, 
likely due to chronic aspiration. The patient does not have sign 
of meningitis, her CT abdomen excluded intra-abdominal 
collection. She was given Tylenol for fever. She was initially 
on vanc/zosyn but this was transitioned to ceftriaxone after 
marked improvement in her status. She did not require 
vasopressors. She was transferred to the floor in stable 
condition. Her urine and blood cultures did not yield source of 
infection. Though she initially had a slight increase in her 
white count this resolved without intervention. Ultimately, no 
clear source of infection was found, but the patient clinically 
improved with antibiotics.

#Hypertension urgency: 
The patient had recent episode of hypertensive urgency in 
___. Recent medication changes include isosorbide dinitrate, 
hydralazine and clonidine following ___. She has history of 
beta-blocker toxicity on labetalol. Her spironolactone was held 
in the setting of elevated K. The labetalol gtt was discontinued 
the morning after admission and she was restarted on her home 
hydrazine 100 mg TID PO, amlodipine 10 mg qd, and an increased 
dose of her imdur to 30 mg TID. On the floor, her blood pressure 
remained well controlled onher discharge regimen.

#AMS/encephalopathy: 
Likely toxic metabolic from sepsis. CT head was negative for 
acute stroke. The patient had significant history of AMS during 
her prior hospitalization with urosepsis. Her AMS is waxing and 
waining which is suggestive of delirium. She was A+Ox3 upon 
transfer to the floor. On the floor, her mental status remained 
stable without further evidence of delirium. 

#Nausea and vomiting:
#Hyperglycemia: 
#Anion gap metabolic acidosis:
Likely in the setting of sepsis and her N/V could be from flare 
of gastroparesis. She was given mIVF and given fluid boluses. 
She was given metoclopramide 5mg with meals qHS for nausea. Her 
gap closed after fluid resuscitation and she did not require 
insulin gtt. On the floor, she was evaluated by the ___ 
___. They made adjustments to her insuling regimen, since she 
did have episodes of hypoglycemia. On discharge, her blood 
sugars were well controlled on the discharge regimen.

#Hyponatremia
Her course was complicated by hyponatremia. This was thought to 
be hypovolemic in nature. It improved with fluids. On discharge, 
her Na was 131. A BMP should be repeated within the next 7 days, 
and her PCP can ___ on the results. 

___: Likely due to pre renal as it improved with IVF.

#Anemia: 
On admission, drop in Hgb from 9.2 to 7.2. ___ be ___ dilution 
given IVF given over course of stay.  She had no melena or BRB 
on rectal exam and hemolysis labs were wnl. She was transfused 1 
u PRBC prior to transfer to the floor. On the floor, her HCT 
remained stable without further need for transfusion

#NSTEMI II: Tn peak at 0.04 likely in the setting of CKD and 
hypovolemia. EKG was not concerning for ACS.

# Chronic Pain:  Originally held methadone and gabapentin as 
above for prior AMS.  Started on Tylenol 1 g q8h prn and 
lidocaine ointment. This was discussed with PCP and her 
methadone was restarted.

#CAD: Continued home ASA 81, Plavix.  
#HLD: Continued home rosouvastatin 10mg qHS  
#Depression: Continued home citalopram 20mg daily.  
#Hypothyroidism:  Continued levothyroxine 88 mcg PO QD.  
#GERD:  Continued home Pantoprazole 40mg daily  
#COPD: Started on albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze, 
continued home advair and spiriva.
#Glaucoma:  Continued brimonidine-timolol 0.2-0.5 % ophthalmic 
BID, travoprost 0.004 % ophthalmic QPM, and artificial tears  
#Constipation:  Given colace, Senna, milk of magnesia, miralax, 
and zofran for nausea.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
3. amLODIPine 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Citalopram 20 mg PO DAILY 
6. CloNIDine 0.3 mg PO BID 
7. Clopidogrel 75 mg PO DAILY 
8. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
9. Furosemide 20 mg PO DAILY 
10. HydrALAZINE 100 mg PO Q8H 
11. Levothyroxine Sodium 88 mcg PO DAILY 
12. Metoclopramide 5 mg PO QIDACHS 
13. Multivitamins 1 TAB PO DAILY 
14. Pantoprazole 40 mg PO Q24H 
15. Isosorbide Dinitrate 20 mg PO TID 
16. Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash 
17. Spironolactone 25 mg PO DAILY 
18. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
19. Ascorbic Acid ___ mg PO BID 
20. Calcitriol 0.25 mcg PO DAILY 
21. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID 
22. Cyanocobalamin 1000 mcg PO DAILY 
23. Docusate Sodium 100 mg PO BID 
24. Ferrous GLUCONATE 324 mg PO DAILY 
25. Lidocaine 5% Ointment 1 Appl TP BID 
26. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
27. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
28. Rosuvastatin Calcium 10 mg PO QPM 
29. Senna 8.6 mg PO BID:PRN constipation 
30. Tiotropium Bromide 1 CAP IH DAILY 
31. travoprost 0.004 % ophthalmic QPM 
32. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
33. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
34. Glargine 30 Units Breakfast
Glargine 7 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Methadone 5 mg PO TID  
2.  Glargine 15 Units Breakfast
Glargine 0 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
3.  Isosorbide Dinitrate 30 mg PO TID  
4.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
5.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
6.  amLODIPine 10 mg PO DAILY  
7.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
8.  Ascorbic Acid ___ mg PO BID  
9.  Aspirin 81 mg PO DAILY  
10.  Calcitriol 0.25 mcg PO DAILY  
11.  Citalopram 20 mg PO DAILY  
12.  CloNIDine 0.3 mg PO BID  
13.  Clopidogrel 75 mg PO DAILY  
14.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID  
15.  Cyanocobalamin 1000 mcg PO DAILY  
16.  Docusate Sodium 100 mg PO BID  
17.  Ferrous GLUCONATE 324 mg PO DAILY  
18.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
19.  Furosemide 20 mg PO DAILY  
20.  HydrALAZINE 100 mg PO Q8H  
21.  Levothyroxine Sodium 88 mcg PO DAILY  
22.  Lidocaine 5% Ointment 1 Appl TP BID  
23.  Metoclopramide 5 mg PO QIDACHS  
24.  Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash  
25.  Milk of Magnesia 30 mL PO Q6H:PRN constipation  
26.  Multivitamins 1 TAB PO DAILY  
27.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
28.  Pantoprazole 40 mg PO Q24H  
29.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
30.  Rosuvastatin Calcium 10 mg PO QPM  
31.  Senna 8.6 mg PO BID:PRN constipation  
32.  Spironolactone 25 mg PO DAILY  
33.  Tiotropium Bromide 1 CAP IH DAILY  
34.  travoprost 0.004 % ophthalmic QPM  
35.  Zolpidem Tartrate 5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute hypertensive urgency
Type I diabetes, poorly controlled with complications
Hyponatremia
Acute encephalopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Why were you admitted?
You had high blood pressures, badly controlled blood sugars, and 
possible infection.

What did we do?
We initially admitted you to the ICU, but then you got better.
We increased your blood pressure medication.
We had the ___ doctors ___ and changed your insulin 
regimen.

What you should do when you leave?
 Take all your medications as prescribed.

 
Followup Instructions:
___